US06852731B2
(1S)-2-chloro-1-(2-furyl)ethanol
As described for the preparation of (1S)-2-chloro-1-pyridin-2-ylethanol, 2-acetylfuran is converted to the title compound, isolated as an oil.

reactant | (1S)-2-chloro-1-pyridin-2-ylethanol | ClC[C@@H](O)C1=NC=CC=C1 | C7H8ClNO
reactant | 2-acetylfuran | C(C)(=O)C=1OC=CC1 | C6H6O2
product | (1S)-2-chloro-1-(2-furyl)ethanol | ClC[C@@H](O)C=1OC=CC1 | C6H7ClO2
